US05705456
c) 3-Azido-1-(3-trifluoromethoxyphenyl)-2-pyrrolidinone
A stirred solution of crude 1-(3-trifluoromethoxyphenyl)-3-methanesulfonyloxy-2-pyrrolidinone (4.00 g) in DMF (15 ml) was treated with sodium azide (0.76 g) and the mixture stirred for 16 hours. The mixture was poured into water and extracted with diethyl ether (x2). The combined ether extracts were washed with water (x3) and brine, then dried (MgSO4). Evaporation of the solvent under reduced pressure gave the crude sub-title compound (3.50 g), which was used without further purification.

reactant | 1-(3-trifluoromethoxyphenyl)-3-methanesulfonyloxy-2-pyrrolidinone | 4.00 g | FC(OC=1C=C(C=CC1)N1C(C(CC1)OS(=O)(=O)C)=O)(F)F | C12H12F3NO5S
reactant | sodium azide | 0.76 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-Azido-1-(3-trifluoromethoxyphenyl)-2-pyrrolidinone | 3.50 g | N(=[N+]=[N-])C1C(N(CC1)C1=CC(=CC=C1)OC(F)(F)F)=O | C11H9F3N4O2
